US05478809
Z-Gly-Gly-Gly-Glu(OtBu)-Thr(tBu)-Thr(tBu)-OtBu (SEQ ID No. 12) (1.97 g, 2.24 mmol) obtained in Example 4-IV) was dissolved in methanol (60 ml). To the solution was added 10% palladium-carbon (120 mg), and the mixture was stirred for 2 hours in hydrogen streams at 20° C. under 1 atom. The catalyst was removed, then the solvent was distilled off to leave H-Gly-Gly-Gly-Glu(OtBu)-Thr(tBu)-Thr(tBu)-OtBu (SEQ ID No. 81) as a solid product.

reactant | Z-Gly-Gly-Gly-Glu(OtBu)-Thr(tBu)-Thr(tBu)-OtBu | N(CC(=O)NCC(=O)NCC(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C43H70N6O13
solvent | methanol | 60 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 120 mg | [C].[Pd]
product | H-Gly-Gly-Gly-Glu(OtBu)-Thr(tBu)-Thr(tBu)-OtBu | NCC(=O)NCC(=O)NCC(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C | C35H64N6O11
